US07763657B2
4-Amino-3-chloro-benzonitrile (100 mg, 0.66 mmol) and ICl (1.1 eq, 0.72 mmol, 117.05 mg) were added in methylene chloride. The reaction mixture was stirred for 12 hr. The reaction mixture was purified according to similar procedure to step 2 of Example 8 to obtain 4-Amino-3-chloro-5-iodobenzonitrile (65.2 mg, 35.80%).

reactant | 4-Amino-3-chloro-benzonitrile | 0.66 mmol, 100 mg | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
reactant | ICl | 0.72 mmol, 117.05 mg, 1.1 eq | ICl | ClI
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Amino-3-chloro-5-iodobenzonitrile | 65.2 mg, 35.80% | NC1=C(C=C(C#N)C=C1I)Cl | C7H4ClIN2
